### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral/RieszMarkovKakutani) prove that the Riesz content is indeed a content for `NNReal`

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
Prove additivity of `RieszContentAux`, completing the proof that it gives a `Content`.

Motivation: this gives the measure related with a positive linear functional `Λ` on compactly supported continuous functions. The next step is to characterise the constructed measure as the one giving `Λ` back.

In this PR, it is assumed to be `NNReal`-linear. The main steps to prove additivity have been proposed by @kkytola [here](https://github.com/leanprover-community/mathlib4/pull/12290#issuecomment-2125859907). A different approach is taken in #12290 for `Real`-linear `Λ`.

- [x] depends on: #12266 for a variation of `PartitionOfUnity`. The new contents of this PR are contained in `MeasureTheory.Integral.linearRieszMarkovKakutani` and `Topology.ContinuousMap.CompactlySupported`.

### CODE REVIEW

**Comment by sgouezel** [comment]
Could you please fix the merge conflict? Thanks!

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 1]
```diff
@@ -25,32 +26,47 @@ compact subsets of the space X, rather than the usual construction of open sets
...
+      (IsCompact.isClosed K.2) hKsubintV
+  have hfHasCompactSupport : HasCompactSupport f :=
+    IsCompact.of_isClosed_subset hVcp (isClosed_tsupport f)
+      (Set.Subset.trans hsuppfsubV interior_subset)
+  use nnrealPartCompactlySupported ⟨f, hfHasCompactSupport⟩
+  intro x hx
+  apply le_of_eq
+  simp only [nnrealPartCompactlySupported_apply, CompactlySupportedContinuousMap.coe_mk]
+  rw [← Real.toNNReal_one]
+  rw [Real.toNNReal_eq_toNNReal_iff (zero_le_one' ℝ) (hfinicc x).1]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:68]:
```suggestion
  rw [← Real.toNNReal_one, Real.toNNReal_eq_toNNReal_iff (zero_le_one' ℝ) (hfinicc x).1]
```
You can combine multiple rewrites into single ones.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 2]
```diff
@@ -25,32 +26,47 @@ compact subsets of the space X, rather than the usual construction of open sets
...
+  exact (EqOn.symm hfeq1onK) hx
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:69]:
```suggestion
  exact hfeq1onK.symm hx
```
Dot notation is pretty good for readability.

**Review by sgouezel — COMMENTED** [review]
Thanks a lot for this, and sorry for the review delay. This looks mostly good, I only have minor comments.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 3]
```diff
@@ -25,32 +26,47 @@ compact subsets of the space X, rather than the usual construction of open sets
...
 def rieszContentAux : Compacts X → ℝ≥0 := fun K =>
-  sInf (Λ '' { f : X →ᵇ ℝ≥0 | ∀ x ∈ K, (1 : ℝ≥0) ≤ f x })
+  sInf (Λ '' { f : C_c(X, ℝ≥0) | ∀ x ∈ K, (1 : ℝ≥0) ≤ f x })
 
 section RieszMonotone
 
+variable [T2Space X] [LocallyCompactSpace X]
+
 /-- For any compact subset `K ⊆ X`, there exist some bounded continuous nonnegative
 functions f on X such that `f ≥ 1` on K. -/
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: Thanks for your review! I went through all the docstrings.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 4]
```diff
@@ -105,3 +123,158 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
...
 
 end RieszSubadditive
+
+
+section PartitionOfUnity
+
+variable [T2Space X] [LocallyCompactSpace X]
+
+lemma exists_sum_one_of_isCompact_nnreal
+    {s : Fin 2 → Set X} {t : Set X} (s_compact : ∀ i, IsCompact (s i))
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I removed `s` and also `set K` below

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 5]
```diff
@@ -522,3 +522,21 @@ instance : ZeroAtInftyContinuousMapClass F β γ where
...
 
 end CompactlySupportedContinuousMapClass
+
+section NonnegativePart
+
+open NNReal
+
+/-- The nonnegative part of a bounded continuous `ℝ`-valued function as a bounded
+continuous `ℝ≥0`-valued function. -/
+noncomputable def nnrealPartCompactlySupported (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: done

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 6]
```diff
@@ -105,3 +125,135 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
   rw [add_assoc, add_comm (ε / 2), add_assoc, add_halves ε, add_assoc]
 
 end RieszSubadditive
+
+
+section PartitionOfUnity
+
+variable [T2Space X] [LocallyCompactSpace X]
+
+lemma exists_sum_one_of_isCompact_nnreal
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:134]:
```suggestion
lemma exists_continuous_add_one_of_isCompact_nnreal
```
Since there are only two terms, it should be `add`, not `sum`.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 7]
```diff
@@ -105,3 +125,135 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
...
+    intro j
+    by_cases h0 : j = 0
+    · rw [h0, hso]
+      simp only [Fin.isValue, ↓reduceIte, isOpen_compl_iff]
+      exact IsCompact.isClosed <| s₀_compact
+    · rw [hso]
+      simp only [Fin.isValue]
+      rw [if_neg h0]
+      simp only [Fin.isValue, isOpen_compl_iff]
+      exact IsCompact.isClosed <| s₁_compact
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:149]:
```suggestion
  have soopen (j : Fin 2) :  IsOpen (so j) := by
    fin_cases j
    · simp only [hso, Fin.zero_eta, Fin.isValue, ↓reduceIte, isOpen_compl_iff]
      exact IsCompact.isClosed <| s₀_compact
    · simp only [hso, Fin.isValue, Fin.mk_one, one_ne_zero, ↓reduceIte, isOpen_compl_iff]
      exact IsCompact.isClosed <| s₁_compact
```
Just to learn a few tricks. Often, `rw` and `simp` in line can be compressed into a single `simp` call.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 8]
```diff
@@ -105,3 +125,135 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
...
+      exact h1
+  obtain ⟨f, f_supp_in_so, sum_f_one_on_t, f_in_icc, f_hcs⟩ :=
+    exists_continuous_sum_one_of_isOpen_isCompact soopen t_compact hsot
+  use (nnrealPart (⟨f 1, f_hcs 1⟩ : C_c(X, ℝ))),
+    (nnrealPart (⟨f 0, f_hcs 0⟩ : C_c(X, ℝ)))
+  simp only [Fin.isValue, CompactlySupportedContinuousMap.coe_add]
+  have sum_one_x (x : X) (hx : x ∈ t) : (f 0) x + (f 1) x = 1 := by
+    let sum_one := sum_f_one_on_t hx
+    simp only [Finset.sum_apply, Fin.sum_univ_two, Fin.isValue, Pi.one_apply] at sum_one
+    exact sum_one
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:176]:
```suggestion
    simpa only [Finset.sum_apply, Fin.sum_univ_two, Fin.isValue, Pi.one_apply] 
      using sum_f_one_on_t hx
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 9]
```diff
@@ -105,3 +125,135 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
...
+  rw [← Λf_eq_b, f_eq_sum, map_add]
+  have aux₁ : ∀ x ∈ K₁, 1 ≤ (g₁ * f) x := by
+    intro x x_in_K₁
+    simp [hg₁ x_in_K₁, hf x (mem_union_left _ x_in_K₁)]
+  have aux₂ : ∀ x ∈ K₂, 1 ≤ (g₂ * f) x := by
+    intro x x_in_K₂
+    simp [hg₂ x_in_K₂, hf x (mem_union_right _ x_in_K₂)]
+  exact add_le_add (rieszContentAux_le Λ aux₁) (rieszContentAux_le Λ aux₂)
+
+/-- The contents induced by the linear functional `Λ`. -/
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:254]:
```suggestion
/-- The content induced by the linear functional `Λ`. -/
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 10]
```diff
@@ -105,3 +125,135 @@ theorem rieszContentAux_sup_le (K1 K2 : Compacts X) :
...
+noncomputable def rieszContent (Λ : (C_c(X, ℝ≥0)) →ₗ[ℝ≥0] ℝ≥0) : Content X where
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:255]:
```suggestion
noncomputable def rieszContent (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) : Content X where
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
